US06784167B2
Preparation of 2-(2-fluoro-4-methylphenyl)-thiophene
To a mixture of magnesium (0.25 g, 10.58 mmol) in anhydrous THF (5.3 mL) was added 2-bromothiophene (1.73 g, 10.58 mmol) dropwise. The mixture was heated at reflux under argon for 0.5 h. An additional 0.35 g of 2-bromothiophene was added to consume the remaining magnesium. The reaction mixture was heated for additional 1.5 h to afford a solution which was transferred to a mixture of 1-bromo-2-fluoro-4-methylbenzene (2.0 g, 10.58 mmol), Pd(PPh3)4 (0.61 g, 0.53 mmol), and THF (23.5 mL). The resulting mixture was heated under argon for 3 h. The reaction was allowed to cool to rt and quenched with water. The mixture was extracted with CH2Cl2. The organic layer was dried over MgSO4 and concentrated down under reduced pressure. The crude product was purified by flash column chromatography eluting with hexane to afford a colorless liquid (1.46 g, 72%): 1H NMR (CDCl3), δ 7.48-7.02 (m, 6H), 2.36 (s, 3H), GC/MS m/z 192 (M+, 100).

reactant | magnesium | 10.58 mmol, 0.25 g | [Mg] | Mg
reactant | 2-bromothiophene | 10.58 mmol, 1.73 g | BrC=1SC=CC1 | C4H3BrS
reactant | 2-bromothiophene | 0.35 g | BrC=1SC=CC1 | C4H3BrS
reactant | 1-bromo-2-fluoro-4-methylbenzene | 10.58 mmol, 2.0 g | BrC1=C(C=C(C=C1)C)F | C7H6BrF
solvent | THF | 5.3 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.53 mmol, 0.61 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 23.5 mL | C1CCOC1 | C4H8O
product | 2-(2-fluoro-4-methylphenyl)-thiophene | 1.46 g, 72% | FC1=C(C=CC(=C1)C)C=1SC=CC1 | C11H9FS
